.title KiCad schematic
.include "C:/Users/hamma/Downloads/nmos_t.txt"
.save all
.probe alli
.probe p(XQ3)
.probe p(R20)
.probe p(R19)
.probe p(C2)
.probe p(R23)
.probe p(V4)
.probe p(V5)
.probe p(R24)
.probe p(R18)
.probe p(R17)
.probe p(XQ2)
.probe p(V3)
.probe p(V1)
.probe p(R16)
.probe p(R15)
.probe p(XQ1)
.probe p(C1)
.probe p(C3)
.probe p(XQ4)
.probe p(C4)
.probe p(R25)
.probe p(R21)
.probe p(R22)
.probe p(R13)
.probe p(C5)
.probe p(R12)
.probe p(V2)
.probe p(R14)
XQ3 Net-_Q3-D_ Net-_Q2-D_ GND GND nmos_3p3 w=30u l=0.5u
R20 GND Net-_Q2-D_ 350k
R19 Net-_Q2-D_ Net-_R19-Pad2_ 350k
C2 Net-_Q3-D_ Net-_Q4-G_ 10u
R23 Net-_Q3-D_ Net-_R19-Pad2_ 25k
V4 Net-_R19-Pad2_ GND DC 3.3 
V5 Net-_Q4-D_ GND DC 3.3 
R24 Net-_Q4-G_ Net-_Q4-D_ 400k
R18 Net-_Q2-D_ Net-_R17-Pad2_ 70k
R17 Net-_Q2-G_ Net-_R17-Pad2_ 565k
XQ2 Net-_Q2-D_ Net-_Q2-G_ GND GND nmos_3p3 w=60u l=5u
V3 Net-_R17-Pad2_ GND DC 3.3 
V1 Net-_R13-Pad2_ GND DC 3.3 
R16 GND Net-_Q2-G_ 200k
R15 Net-_Q1-D_ Net-_R13-Pad2_ 40.2k
XQ1 Net-_Q1-D_ Net-_Q1-G_ GND GND nmos_3p3 w=45u l=1u
C1 Net-_Q1-D_ Net-_Q2-G_ 10u
C3 Vout Net-_C3-Pad2_ 10u
XQ4 Net-_Q4-D_ Net-_Q4-G_ Vout GND nmos_3p3 w=30u l=0.5u
C4 GND Net-_C3-Pad2_ 2p
R25 GND Net-_Q4-G_ 1Meg
R21 GND Vout 10k
R22 GND Net-_C3-Pad2_ 10k
R13 Net-_Q1-G_ Net-_R13-Pad2_ 630k
C5 Net-_C5-Pad1_ Net-_Q1-G_ 10u
R12 Net-_R12-Pad1_ Net-_C5-Pad1_ 50
V2 Net-_R12-Pad1_ GND DC 0 SIN( 0 0.55m 1k 0 0 0 ) AC 1  
R14 GND Net-_Q1-G_ 200k
.end
